US07323466B2
(R)-2-(4-(2,2,2-trifluoroethoxy)-3-chlorobenzyl)morpholine
To a suspension of sodium hydride (50 mg, 1.25 mmol) in N,N-dimethyl formamide (0.5 mL) at 0° C. was added 2,2,2-trifluroethanol (125 mg, 1.25 mmol), and the resultant mixture stirred for 5 mins. N-Benzyl-(R)-2-(4-fluoro-3-chlorobenzyl)morpholine, example 27, intermediate (a) (100 mg, 0.31 mmol) was added in one portion as a solution in N,N-dimethyl formamide (1.0 mL) via syringe and the reaction mixture warmed to 10° C. and shaken at that temperature for 18 hrs. The reaction was cooled to room temperature and poured into water (20 ml). The suspension was extracted with ethyl acetate (20 mL×2). Combined organic extracts were washed with water (20 mL×2) and brine (25 mL), dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (silica; 20% ethyl acetate/isohexane) to yield the desired product as a light yellow oil (38 mg) and used directly in the next reaction. The material was dissolved in 1,2-dichloroethane (2 mL), and 1-chloro-ethyl-chloroformate (33 mg, 0.23 mmol) added in one portion. The resulting mixture was heated at 90° C. for 24 hrs. The reaction was then concentrated in vacuo. The residue was dissolved in methanol (10 mL), and heated at 80° C. for 5 hrs. The reaction was cooled to room temperature and concentrated in vacuo. The residue was dissolved in dichloromethane and poured onto an SCX-2 column (2 g) and washed with dichloromethane (2 mL×2) and methanol (2 mL×2). The column was then washed with ammonia (2N solution in methanol, 2 mL×3) and the ammonia washes were concentrated in vacuo to yield example 40 as a yellow oil (20 mg).

reactant | sodium hydride | 1.25 mmol, 50 mg | [H-].[Na+]
reactant | 2,2,2-trifluroethanol | 1.25 mmol, 125 mg | FC(CO)(F)F | C2H3F3O
reactant | N-Benzyl-(R)-2-(4-fluoro-3-chlorobenzyl)morpholine | C(C1=CC=CC=C1)N1C[C@H](OCC1)CC1=CC(=C(C=C1)F)Cl | C18H19ClFNO
reactant | water | 20 ml | O | H2O
solvent | N,N-dimethyl formamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethyl formamide | 1.0 mL | CN(C=O)C | C3H7NO
product | (R)-2-(4-(2,2,2-trifluoroethoxy)-3-chlorobenzyl)morpholine | 38 mg | FC(COC1=C(C=C(C[C@@H]2CNCCO2)C=C1)Cl)(F)F | C13H15ClF3NO2
